US08937150B2
4,4′-(1-(4-fluorophenyl)pyrrolidine-2,5-diyl)bis(2-nitroaniline)
4,4′-(1-(4-Fluorophenyl)pyrrolidine-2,5-diyl)bis(N-(4-methoxybenzyl)-2-nitroaniline) (0.78 g, 1.15 mmol) was dissolved in dichloromethane (10 mL) at room temperature and treated with TFA (1.8 mL, 23.0 mmol) for 3 hours. The residue was concentrated and partitioned between dichloromethane and sodium bicarbonate solution. The organics were concentrated and purified by chromatography on silica gel with a 40 g column, eluting with dichloromethane to give 0.218 g (43%) of the trans isomer.

reactant | 4,4′-(1-(4-Fluorophenyl)pyrrolidine-2,5-diyl)bis(N-(4-methoxybenzyl)-2-nitroaniline) | 1.15 mmol, 0.78 g | FC1=CC=C(C=C1)N1C(CCC1C1=CC(=C(NCC2=CC=C(C=C2)OC)C=C1)[N+](=O)[O-])C1=CC(=C(NCC2=CC=C(C=C2)OC)C=C1)[N+](=O)[O-] | C38H36FN5O6
reactant | TFA | 23.0 mmol, 1.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4,4′-(1-(4-fluorophenyl)pyrrolidine-2,5-diyl)bis(2-nitroaniline) | FC1=CC=C(C=C1)N1C(CCC1C1=CC(=C(N)C=C1)[N+](=O)[O-])C1=CC(=C(N)C=C1)[N+](=O)[O-] | C22H20FN5O4
